US04115416
100 ml of 2N sodium hydroxide solution are added to 27 g of α-[p-(1-cycloheptenyl)-phenoxy]-undecanoic acid ethyl ester in 150 ml of ethanol and the mixture is stirred for 2 hours at room temperature. The ethanol is removed in vacuo and the residue is partitioned between 2 N hydrochloric acid and ether. The organic phases are washed until neutral, dried over sodium sulphate and concentrated by evaporation in vacuo. Distillation of the residue at 0.04 mm gives α-[p-(1-cycloheptenyl)-phenoxy]-undecanoic acid, of melting point 79°-81° C (from n-hexane), in the fraction boiling at 185°-190° C.

reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
reactant | α-[p-(1-cycloheptenyl)-phenoxy]-undecanoic acid ethyl ester | 27 g | C(C)OC(C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CCCCCC1)=O | C26H40O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | α-[p-(1-cycloheptenyl)-phenoxy]-undecanoic acid | C1(=CCCCCC1)C1=CC=C(OC(C(=O)O)CCCCCCCCC)C=C1 | C24H36O3
